### PR TITLE
[Merged by Bors] - feat(Algebra/Spectrum): add the second resolvent identity

### PR DESCRIPTION
**Pull request by godofecht**
Adds `spectrum.resolvent_sub_resolvent`:

For `a b : A` in an `R`-algebra and `r` in the resolvent set of both,
`resolvent a r - resolvent b r = resolvent a r * (a - b) * resolvent b r`.

Companion to `spectrum.resolvent_eq`.

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Spectrum/Basic.lean [hunk 1]
```diff
@@ -157,6 +158,21 @@ theorem of_subsingleton [Subsingleton A] (a : A) : spectrum R a = ∅ := by
 theorem resolvent_eq {a : A} {r : R} (h : r ∈ resolventSet R a) : resolvent a r = ↑h.unit⁻¹ :=
   Ring.inverse_unit h.unit
 
+/-- The second resolvent identity: for `r` in the resolvent set of both
+`a` and `b`,
+`resolvent a r - resolvent b r = resolvent a r * (a - b) * resolvent b r`. -/
+theorem resolvent_sub_resolvent {a b : A} {r : R}
+    (ha : r ∈ resolventSet R a) (hb : r ∈ resolventSet R b) :
+    resolvent a r - resolvent b r
+      = resolvent a r * (a - b) * resolvent b r := by
```
Comment (wwylele) [inline Mathlib/Algebra/Algebra/Spectrum/Basic.lean]: It looks like it fits in one line at a glance 
```suggestion
    resolvent a r - resolvent b r = resolvent a r * (a - b) * resolvent b r := by
```

**Comment by godofecht** [comment]
Since @dagurtomas unassigned himself, what's the next step?

**Comment by dagurtomas** [comment]
> Since @dagurtomas unassigned himself, what's the next step?

Someone else will be automatically assigned

File: Mathlib/Algebra/Algebra/Spectrum/Basic.lean [hunk 2]
```diff
@@ -166,6 +167,20 @@ theorem of_subsingleton [Subsingleton A] (a : A) : spectrum R a = ∅ := by
...
+theorem resolvent_sub_resolvent {a b : A} {r : R}
+    (ha : r ∈ resolventSet R a) (hb : r ∈ resolventSet R b) :
+    resolvent a r - resolvent b r = resolvent a r * (a - b) * resolvent b r := by
+  rw [resolvent_eq ha, resolvent_eq hb]
+  have h_units : (↑ha.unit⁻¹ : A) - (↑hb.unit⁻¹ : A)
+      = (↑ha.unit⁻¹ : A) * ((hb.unit : A) - (ha.unit : A)) * (↑hb.unit⁻¹ : A) := by
+    rw [mul_sub, sub_mul, mul_assoc, Units.mul_inv, mul_one, Units.inv_mul, one_mul]
+  have h_diff : (hb.unit : A) - (ha.unit : A) = a - b := by
+    rw [ha.unit_spec, hb.unit_spec]; abel
+  rw [h_units, h_diff]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Spectrum/Basic.lean]:
```suggestion
  rw [resolvent_eq ha, resolvent_eq hb, Units.eq_mul_inv_iff_mul_eq, Units.eq_inv_mul_iff_mul_eq]
  simp [sub_mul, mul_sub, -IsUnit.unit_spec]
  simp
```

**Review by godofecht — COMMENTED** [review]
File tree
Merge branch 'master' into second-resolvent-identity

**Comment by themathqueen** [comment]
Please comment "-awaiting-author" when you're ready for another review

**Comment by godofecht** [comment]
-awaiting-author

**Comment by godofecht** [comment]
-awaiting-author

**Comment by ocfnash** [comment]
Thanks and apologies for review slowness here!

bors merge

**Comment by ocfnash** [comment]
@godofecht I don't believe there was any need to merge master. Unfortunately this means that the bors batch containing this was cancelled. I'll requeue it now but it's lucky I got this notification so quickly.

bors merge

**Comment by godofecht** [comment]
Apologies!
